US05478858
To a cold (ice bath) solution of 4,7-dimethylbenzimidazole (1 g) in concentrated sulfuric acid (8 mL) is added dropwise concentrated nitric acid (0.37 mL), over 50 minutes. The mixture is stirred an additional 30 minutes in the ice bath, then poured into a mixture of crushed ice (30 mL) and ammonium hydroxide (30 mL). The resulting mixture is extracted with ethyl acetate. The extract is dried over MgSO4 and rotary evaporated to afford 4,7-dimethyl-5-nitrobenzimidazole as a dark tan solid.

reactant | 4,7-dimethylbenzimidazole | 1 g | CC1=CC=C(C=2N=CNC21)C | C9H10N2
reactant | nitric acid | 0.37 mL | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
product | 4,7-dimethyl-5-nitrobenzimidazole | CC1=C(C=C(C=2N=CNC21)C)[N+](=O)[O-] | C9H9N3O2
